US08431695B2
Step 1: Preparation of 1-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)-2-[4-benzyl-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)piperazin-1-yl]ethanone
To a solution of 1-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)-2-chloroethanone (1.00 g, 4.75 mmol), K2CO3 (1.97 g, 14.2 mmol) and potassium iodide (79 mg, 0.47 mmol) in DMF (20 mL), was added 1-benzyl-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)piperazine (1.53 g, 4.79 mmol, prepared by the method of Naylor et al J. Med. Chem. 36, 2075). The reaction was allowed to stir for 17 hours. The mixture was partitioned between ethyl acetate (200 mL) and saturated, aqueous Na2CO3 solution (100 mL). The layers were separated and the organic was washed with brine, dried (Na2SO4), and evaporated. The crude material was purified by ISCO® chromatography using a gradient elution from 50% to 100% ethyl acetate in hexanes to obtain 1.9 g (81%) of the desired product LC-MS [M+H]+=495.6, RT=2.56 min.

reactant | 1-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)-2-chloroethanone | 4.75 mmol, 1.00 g | NC1=NC=NN2C1=CC=C2C(CCl)=O | C8H7ClN4O
reactant | K2CO3 | 14.2 mmol, 1.97 g | C(=O)([O-])[O-].[K+].[K+]
reactant | potassium iodide | 0.47 mmol, 79 mg | [I-].[K+]
reactant | 1-benzyl-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)piperazine | C(C1=CC=CC=C1)N1CC(NCC1)CO[Si](C)(C)C(C)(C)C | C18H32N2OSi
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)-2-[4-benzyl-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)piperazin-1-yl]ethanone | 1.9 g, 81% | NC1=NC=NN2C1=CC=C2C(CN2C(CN(CC2)CC2=CC=CC=C2)CO[Si](C)(C)C(C)(C)C)=O | C26H38N6O2Si
